US06939885B2
Synthesis of 4-tert-Butyl-N-[3,4-difluoro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 117 mg of (6-Amino-2,3-difluoro-phenyl)-pyridin-4-yl-methanone and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.22 (s, 9H), 7.31 (d, 2H, J=8.4 Hz), 7.40-7.47 (m, 3H), 7.55 (d, 2H, J=8.4 Hz), 7.59 (m, 1H), 8.69 (b, 1H), 8.82 (d, 2H, J=6.0 Hz). MS: m/z 431.0 (M++1).

reactant | (6-Amino-2,3-difluoro-phenyl)-pyridin-4-yl-methanone | 117 mg | NC1=CC=C(C(=C1C(=O)C1=CC=NC=C1)F)F | C12H8F2N2O
reactant | 4-tert-Butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[3,4-difluoro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)C(=O)C1=CC=NC=C1 | C22H20F2N2O3S
